US09255110B2
To a solution of 3-methyl-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester (1.2 g) in carbon tetrachloride (50 mL) was added N-bromosuccinimide (2.4 g) followed by AIBN (50 mg) and the resulting mixture was heated at reflux for 4 hours. The reaction mixture was cooled; the solids were removed by filtrations and copiously washed with carbon tetrachloride. The filtrate was evaporated under reduced pressure, the residue was dissolved in dimethyl sulfoxide (20 mL) and the resulting mixture was heated at 80° C. for 1 hour. The reaction mixture was cooled, diluted with water, basified by addition of a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (acetone/DCM, 5/95) to give 0.8 g of 3-formyl-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester.

reactant | 3-methyl-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester | 1.2 g | C(C)OC(=O)C=1C=C2C(=NC1)C(=CS2)C | C11H11NO2S
reactant | N-bromosuccinimide | 2.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 3-formyl-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester | 0.8 g | C(C)OC(=O)C=1C=C2C(=NC1)C(=CS2)C=O | C11H9NO3S
